US07282512B2
To 1.90 g (5.26 mmol) of methyl(2S)-2-({[(1-benzylcyclohexyl)oxy]carbonyl}amino)hexanoate in 18 mL of tetrahydrofuran:water (1:1) was added 308.8 mg (7.36 mmol) of lithium hydroxide monohydrate and the mixture was stirred at room temperature for 4 h. The solution was concentrated and extracted with diethyl ether. The aqueous layer was acidified with 1 N hydrochloric acid and extracted with diethyl ether. The organic layer was dried over magnesium sulfate, filtered, and concentrated. The residue was dissolved in 15 mL of dichloromethane, then 19.0 mg (155.4 μmol) of 4-dimethylaminopyridine was added. To this solution was added 983.4 mg (3.26 mmol) of (triphenylphosphoranylidene)acetonitrile, followed by 658.8 mg (3.42 mmol) of 1-ethyl-3-(3-dimethyl-aminopropyl)carbodiimide, and the mixture was stirred at room temperature for 16 h. Water was added to the solution and it was extracted with ethyl acetate. The organic layer was washed with 10% citric acid, followed by saturated sodium bicarbonate, and saturated sodium chloride. The organic layer was dried over magnesium sulfate, filtered, and concentrated. The residue was purified by silica gel column chromatography eluting with an ethyl acetate:hexanes solution (1:1) to give 1.29 g (39%) of 1-benzylcyclohexyl(1S)-1-[cyano(triphenylphosphoranylidene)acetyl]pentylcarbamate. Rf=0.32 (1:1 ethyl acetate:hexanes); 1H NMR (300 MHz, DMSO-d6) δ 7.74-7.70 (m, 3H), 7.62-7.50 (m, 12H), 7.22-7.12 (m, 5H), 6.90 (d, J=8 Hz, 1H), 4.60-4.52 (m, 1H), 3.23 (ABq, JAB=13 Hz, ΔνAB=40 Hz, 2H), 2.19 (d, J=13 Hz, 1H), 1.95 (d, J=16 Hz, 1H), 1.86-1.68 (m, 1H), 1.60-1.10 (m, 13H), 0.90 (t, J=7 Hz, 3H).

reactant | methyl(2S)-2-({[(1-benzylcyclohexyl)oxy]carbonyl}amino)hexanoate | 5.26 mmol, 1.90 g | C(C1=CC=CC=C1)C1(CCCCC1)OC(=O)N[C@H](C(=O)OC)CCCC | C21H31NO4
reactant | lithium hydroxide monohydrate | 7.36 mmol, 308.8 mg | O.[OH-].[Li+]
reactant | (triphenylphosphoranylidene)acetonitrile | 3.26 mmol, 983.4 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC#N | C20H16NP
reactant | Water | O | H2O
solvent | tetrahydrofuran water | 18 mL | O1CCCC1.O
catalyst | DMAP | 155.4 μmol, 19.0 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 1-benzylcyclohexyl(1S)-1-[cyano(triphenylphosphoranylidene)acetyl]pentylcarbamate | 1.29 g, 39% | C(#N)C(C(=O)[C@H](CCCC)NC(OC1(CCCCC1)CC1=CC=CC=C1)=O)=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C40H43N2O3P
